US05859007
3-(2-Bromo-phenoxy)-acrylic acid methyl ester
To a stirring solution of 972 mg (11.56 mmol) of ethyl propiolate in 20 mL of THF at 0° C. is added a solution of 1.61 mL (11.56 mmol) of triethylamine in 5 mL of THF, followed by a solution of 2.0 g (11.56 mmol) of 2-Bromophenol in 5 mL of THF. The resulting clear orange-brown solution is stirred 5 h at 0° C., then poured into 100 mL of Et2O and extracted with H2O (1×100 mL). The organic layer is separated and washed with sat. Na2CO3 (1×100 mL), dried (MgSO4), and the solvent removed in vacuo to provide 2.97 g of the title compound as an orange oil which is used without any further purification: 1H NMR (CDCl3, 300 MHz) δ7.71 (d, 1H, J=12.3), 7.61 (d, 1H, J=7.4), 7.37-7.08 (m, 3H), 5.47 (d, 1H, J=12.3), 3.72 (s, 3H); Rf =0.40 in hexane/EtOAc 5/1.

reactant | ethyl propiolate | 11.56 mmol, 972 mg | C(C#C)(=O)OCC | C5H6O2
reactant | triethylamine | 11.56 mmol, 1.61 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Bromophenol | 11.56 mmol, 2.0 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(2-Bromo-phenoxy)-acrylic acid methyl ester | 2.97 g | COC(C=COC1=C(C=CC=C1)Br)=O | C10H9BrO3
